US07964602B2
6-Chloro-3-pyridinecarbaldehyde (D25)
2-Chloro-5-cyanopyridine (5 g, 36 mmol) was dissolved in anhydrous toluene (100 ml) and cooled to 5° C. 1.5M DIBAL-H in toluene (25.2 ml, 38 mmol) was added dropwise over 20 min. The resulting solution was treated with MeOH (10 ml) and then 2M H2SO4 (30 ml) and stirred at room temp. for 48 h. The mixture was concentrated and the residue partitioned between EtOAc and water. The organic layer was separated, washed with brine and saturated NaHCO3 solution, then dried (Na2SO4) and concentrated to give the title compound as a pale yellow solid (5.419). δH (CDCl3) 7.51 (1H, d), 8.14 (1H, m), 8.87 (1H, d), 10.10 (1H, s).

reactant | 2-Chloro-5-cyanopyridine | 36 mmol, 5 g | ClC1=NC=C(C=C1)C#N | C6H3ClN2
reactant | DIBAL-H | 1.5M | CC(C)C[AlH]CC(C)C
reactant | MeOH | 10 ml | CO | CH4O
reactant | H2SO4 | 2M, 30 ml | OS(=O)(=O)O | H2O4S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 38 mmol, 25.2 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Chloro-3-pyridinecarbaldehyde | ClC1=CC=C(C=N1)C=O | C6H4ClNO
